US09371333B2
8-(4-Allyloxy-3-bromo-5-methoxy-phenyl)-6-amino-8H-[1,3]dioxolo[4,5-g]chromene-7-carbonitrile (41)
3,4-Methylenedioxyphenol (166 mg, 1.2 mmol), 4-allyloxy-3-bromo-5-methoxy-benzaldehyde (271 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) were taken in 7 ml ethanol at room temperature, charged with piperidine (50 μL) and then stirred at 80° C. under LC-MS control till the reaction was complete. The reaction mixture was cooled down to room temperature, diluted with 10 ml water, stirred for 2 h at room temperature, solids were collected by filtration, washed with 1:1 mixture of ethanol/water and dried (200 mg, 0.44 mmol, 44%).

reactant | 3,4-Methylenedioxyphenol | 1.2 mmol, 166 mg | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | 4-allyloxy-3-bromo-5-methoxy-benzaldehyde | 1 mmol, 271 mg | C(C=C)OC1=C(C=C(C=O)C=C1OC)Br | C11H11BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 50 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 8-(4-Allyloxy-3-bromo-5-methoxy-phenyl)-6-amino-8H-[1,3]dioxolo[4,5-g]chromene-7-carbonitrile | C(C=C)OC1=C(C=C(C=C1OC)C1C(=C(OC=2C=C3C(=CC12)OCO3)N)C#N)Br | C21H17BrN2O5
